US08431573B2
2-(3-Chlorobenzyl)-4-[(2-methoxybenzyl)amino]-6-oxo-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.34 mmol) of 2-(3-chlorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile are reacted with 470 mg (3.43 mmol) of 2-methoxybenzylamine to give 37 mg (28% of theory) of the title compound.

reactant | 2-(3-chlorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | 0.34 mmol, 100 mg | ClC=1C=C(CC=2NC(C(=C(N2)SC)C#N)=O)C=CC1 | C13H10ClN3OS
reactant | 2-methoxybenzylamine | 3.43 mmol, 470 mg | COC1=C(CN)C=CC=C1 | C8H11NO
product | 2-(3-Chlorobenzyl)-4-[(2-methoxybenzyl)amino]-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | ClC=1C=C(CC=2NC(C(=C(N2)NCC2=C(C=CC=C2)OC)C#N)=O)C=CC1 | C20H17ClN4O2
